### ISSUE TITLE
[Feature] Detect and guide the .of_eq fun _ ↦ rfl whnf-timeout when proving ComputableIn/Computable over heavy Primcodable encodings

### ISSUE THREAD

**Issue by cameronfreer** [cameronfreer/lean4-skills#150]
## Problem / Pain Point
Proving oracle-computability of a function built from heavily-encoded components (mathlib `FirstOrder` term/formula stack-machine codes, `Nat.find` searches, `Primcodable.ofEquiv` structures) idiomatically ends in `(combinatorProof).of_eq fun _ ↦ rfl`. On these encodings that closing bridge **deterministically times out at `whnf`/`isDefEq`** — even at 1M–2M `maxHeartbeats` and raised `maxSynthPendingDepth` — because `.of_eq` establishes definitional equality *inside* `ComputableIn`, whose type depends on `Primcodable` instances, triggering WHNF through encoders, `Nat.find`, stack machines, and dependent products **even when the underlying functions are visibly identical**. The error is a bare "timeout at whnf" with no hint of cause or remedy. In one project this burned many hours and dozens of `lake build` cycles across two proofs before the right structural fix was found.

## Current Workaround / Reusable Rule
There is a fairly general proof-engineering rule:

> When proving computability of a definition built from deeply-encoded components, avoid transporting the proof with `.of_eq fun _ ↦ rfl`. Instead, construct a proof for the **fully-expanded lambda** (as an explicitly-typed intermediate) and close with `simpa only [definition] using proof`.

`simpa only [foo]` performs a *controlled* rewrite of the outer definition and leaves opaque/deep fields untouched; `.of_eq` invites normalization of the encoded functions. Escalation order:

1. Give intermediate computations **exact types**.
2. Build the final constructor computation with the **expanded lambda** (an explicit `have hmk : ComputableIn O (fun p ↦ ⟨…expanded…⟩) := …`). Doing this inline in the `using` clause is *not* enough — the inline term's type is inferred as the beta-redex and `simpa` re-whnfs it.
3. Close with **`simpa only [targetDef] using hmk`**.
4. If needed, prove a small **function-equality lemma** and `rw` by it.
5. Mark implementation-heavy selectors **`irreducible`** *after* proving their specification lemmas.
6. Raise **heartbeats only after** these structural approaches fail.

In short: prefer controlled propositional rewriting over definitional-equality transport at computability boundaries. (Related: the `casesOn ↔ elim` variant is closed by `refine …of_eq fun p ↦ ?_; rcases (decode …) <;> simp [def]`.)

## Real Example (repo sanitized)
From a downstream Lean 4 / mathlib formalization, proving composition of encoded "potential embedding" data is oracle-computable:

```lean
theorem compData_computableIn :
    ComputableIn O fun p : PotentialEmbeddingData × PotentialEmbeddingData ↦
      K.compData p.1 p.2 := by
  have hdom : ComputableIn O fun p : PotentialEmbeddingData × PotentialEmbeddingData ↦
      p.2.domIdx := PotentialEmbeddingData.domIdx_computable.comp ComputableIn.snd
  have hcod : ComputableIn O fun p : PotentialEmbeddingData × PotentialEmbeddingData ↦
      p.1.codIdx := PotentialEmbeddingData.codIdx_computable.comp ComputableIn.fst
  have hmap : ComputableIn O fun p : PotentialEmbeddingData × PotentialEmbeddingData ↦
      p.2.rangeTuple.map (K.transportValue p.1) := ComputableIn.list_map …

  -- ✗ deterministic `whnf` timeout — even at maxHeartbeats 2000000, maxSynthPendingDepth 10.
  --   (Also fails as an INLINE `simpa only [compData] using mk_computableIn.comp …`,
  --    whose `using` term keeps its beta-redex type.)
  -- exact (PotentialEmbeddingData.mk_computableIn.comp (hdom.pair (hcod.pair hmap))).of_eq
  --   fun _ ↦ rfl

  -- ✓ compiles at default options (~3s): give the constructor computation its fully-expanded
  --   lambda type FIRST (explicit `have`), then rewrite ONLY the outer `compData`, leaving
  --   the stack-machine-coded `transportValue` untouched so constructors match syntactically:
  have hmk : ComputableIn O fun p : PotentialEmbeddingData × PotentialEmbeddingData ↦
      (⟨p.2.domIdx, p.1.codIdx, p.2.rangeTuple.map (K.transportValue p.1)⟩ :
        PotentialEmbeddingData) :=
    PotentialEmbeddingData.mk_computableIn.comp (hdom.pair (hcod.pair hmap))
  simpa only [compData] using hmk
```

Here `compData G F = ⟨F.domIdx, G.codIdx, F.rangeTuple.map (K.transportValue G)⟩` and `transportValue` decodes a `Nat.find` term code through the `L.Term ℕ` stack-machine `Primcodable`.

## Desired Behavior
When the diagnostics/repair path sees a deterministic `whnf`/`isDefEq` heartbeat timeout on a `ComputableIn`/`Computable(₂)` goal — especially at a `.of_eq fun _ ↦ rfl` or `.comp` closing step — it should: flag the likely cause (definitional-equality transport normalizing encoded functions); recommend the escalation order above (explicitly-typed `hmk` + `simpa only [<def>]`, and local `irreducible`, **before** and instead of `maxHeartbeats`); and warn that `lake build` (with lakefile `[leanOptions]` such as `maxSynthPendingDepth`) is stricter than `lake env lean`, so a passing file-gate is not sufficient — verify with `lake build`.

## Why This Belongs in the Plugin
A recurring, non-obvious mathlib-computability elaboration pathology with a specific, teachable remedy — exactly the proof-engineering heuristic the plugin exists to encode (fits `references/compiler-guided-repair.md`, `compilation-errors.md`, `performance-optimization.md`). A user facing a bare "timeout at whnf" cannot discover the typed-`hmk` + `simpa only` fix unaided, and heartbeat escalation is the natural-but-wrong instinct.

## Acceptance Criteria
- [ ] A reference documents the rule ("prefer an explicitly-typed constructor computation + `simpa only [def]` over `.of_eq fun _ ↦ rfl` at computability boundaries") with the escalation order and a worked example.
- [ ] Timeout/repair guidance recommends exact intermediate types, the typed `hmk` + `simpa only [<def>]`, and local `irreducible` before (and instead of) `maxHeartbeats` escalation for `ComputableIn`/`Computable` goals over `Primcodable` encodings.
- [ ] Guidance notes the `lake env lean` vs `lake build` (lakefile `leanOptions`) strictness discrepancy for verifying these proofs.

## Alternatives Considered
- Raising `maxHeartbeats`/`maxSynthPendingDepth`: tried to 2M + depth 10; does not resolve it (normalization is effectively unbounded) — costly dead end.
- Inline `simpa only [compData] using mk_computableIn.comp …` (no typed intermediate): still whnf-times-out — the `using` term keeps its beta-redex type.
- `change`/`exact` instead of `.of_eq`: still normalizes; no help.
- Per-project tribal knowledge: it recurs on every computability proof over these encodings, so encode it once.

## Urgency / Frequency
Frequent and high-cost: recurs on essentially every `ComputableIn` proof whose value type touches the term/formula `Primcodable` or a `Primcodable.ofEquiv` structure. Not blocking (a workaround exists once known) but each fresh occurrence burns significant time.

---
*Drafted via [lean4-contribute](https://github.com/cameronfreer/lean4-skills)*
